US08877744B2
The reaction of (R)-6,6-difluoro-5-{2-fluoro-5-[1-(4-fluoro-phenyl)-1H-pyrazol-4-yl]-phenyl}-5,7,7-trimethyl-[1,4]oxazepan-3-one (189 mg, 422 μmol) with Lawesson's reagent (139 mg, 338 μmol) in 1,4-dioxane (14 ml) yielded the (R)-6,6-difluoro-5-{2-fluoro-5-[1-(4-fluoro-phenyl)-1H-pyrazol-4-yl]-phenyl}-5,7,7-trimethyl-[1,4]oxazepan-3-thione (148 mg, 76% yield) as a white solid. MS (ISP): m/z=464.2.0 [M+H]+.

reactant | (R)-6,6-difluoro-5-{2-fluoro-5-[1-(4-fluoro-phenyl)-1H-pyrazol-4-yl]-phenyl}-5,7,7-trimethyl-[1,4]oxazepan-3-one | 422 μmol, 189 mg | FC1([C@@](NC(COC1(C)C)=O)(C)C1=C(C=CC(=C1)C=1C=NN(C1)C1=CC=C(C=C1)F)F)F | C23H21F4N3O2
reactant | Lawesson's reagent | 338 μmol, 139 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | 1,4-dioxane | 14 ml | O1CCOCC1 | C4H8O2
product | (R)-6,6-difluoro-5-{2-fluoro-5-[1-(4-fluoro-phenyl)-1H-pyrazol-4-yl]-phenyl}-5,7,7-trimethyl-[1,4]oxazepan-3-thione | 148 mg, 76% yield | FC1([C@@](NC(COC1(C)C)=S)(C)C1=C(C=CC(=C1)C=1C=NN(C1)C1=CC=C(C=C1)F)F)F | C23H21F4N3OS
